US09238644B2
(c) tert-Butyl 4-(5-((4-(2-(1-amino-1-oxopropan-2-yl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)pyridin-2-yl)piperidine-1-carboxylate (A72)
A mixture of tert-Butyl 4-(5-((4-((2-(1-amino-1-oxopropan-2-yl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)pyridin-2-yl)piperidine-1-carboxylate A71 (0.139 g, 0.234 mmol) and 10% Pd/C (0.156 g) in DMF (3.0 mL) and Et3N (0.30 mL) was stirred under a hydrogen atmosphere for 112 hours. The mixture was filtered through Celite and concentrated under reduced pressure before being purified using silica gel column chromatography (Biotage Isolera, SiO2 cartridge, 0-100% EtOAc in petroleum benzine 40-60° C., 0-20% MeOH in EtOAc) to give the title compound A72 (0.060 g, 42%). LCMS-D: rt 3.568 min; m/z 599.4 [M+H]+.

reactant | tert-Butyl 4-(5-((4-((2-(1-amino-1-oxopropan-2-yl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)pyridin-2-yl)piperidine-1-carboxylate | NC(C(C)C1=C(C=CC=C1)C#CC1=NC(=NC=C1C(F)(F)F)NC=1C=CC(=NC1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C31H33F3N6O3
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | Et3N | 0.30 mL | CCN(CC)CC | C6H15N
catalyst | Pd/C | 0.156 g | [Pd] | Pd
product | tert-Butyl 4-(5-((4-(2-(1-amino-1-oxopropan-2-yl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)pyridin-2-yl)piperidine-1-carboxylate | NC(C(C)C1=C(CCC2=NC(=NC=C2C(F)(F)F)NC=2C=CC(=NC2)C2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C1)=O | C31H37F3N6O3
